data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1F.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1F.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1F", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(Cl)CC2F.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(Cl)CC2F", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(Cl)CC2F"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1.[H+]", "products": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1"}, {"reactants": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1.O"}, {"reactants": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1"}, {"reactants": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1", "products": "CC1=C(c2ccc(C)cc2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)cc2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(C)cc2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)cc2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1"}, {"reactants": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1", "products": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1"}, {"reactants": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1", "products": "Cc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1CN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C(CC)(C(=O)C(=[N+]=[N-])C(=O)OC)C1.[Rh]", "products": "CCC1CN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C(CC)(C(=O)[C](=[Rh])C(=O)OC)C1.N#N"}, {"reactants": "CCC1CN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C(CC)(C(=O)[C](=[Rh])C(=O)OC)C1", "products": "CCC1CN(C(=O)Cc2cn(C)c3ccccc23)C2=[O+][C-](C(=O)OC)C(=O)C2(CC)C1.[Rh]"}, {"reactants": "CCC1CN(C(=O)Cc2cn(C)c3ccccc23)C2=[O+][C-](C(=O)OC)C(=O)C2(CC)C1", "products": "CCC1CN2C(=O)CC34c5ccccc5N(C)C3C3(C(=O)OC)OC24C(CC)(C1)C3=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CCl)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)c(Cl)c1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)C)c([Si](C)(C)CCl)c(Cl)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)CCl)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)CCl)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)CCl)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CF)c([Si](C)(C)CCl)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CCl)c([Si](C)(C)C)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)C)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)C)c(C)c1=C", "products": "Cc1c2c(cc([Si](C)(C)CCl)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1F.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1F.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1F", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(F)CC2F.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(F)CC2F", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(F)CC2F"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1cccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1cccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1cccc(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1cccc(OC)c1", "products": "COc1cccc(C(Cl)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cc(Cl)ccc1Cl)C1C2CCC1C2", "products": "[O][C](c1cc(Cl)ccc1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1cc(Cl)ccc1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cc(Cl)ccc1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cc(Cl)ccc1Cl", "products": "OC(=CC1C=CCC1)c1cc(Cl)ccc1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1cc(Cl)ccc1Cl", "products": "O=C(CC1C=CCC1)c1cc(Cl)ccc1Cl"}]}
